US07601844B2
3-Carboxyphenyl boronic acid (100 mg, 0.60 mmol), 2-bromophenyl urea (130 mg, 0.60 mmol), tetrakis(triphenylphosphine)palladium(0) (35 mg, 0.030 mmol), sodium carbonate (192 mg, 1.81 mmol), toluene (5 mL), water (3 mL), and ethanol (3 mL) were mixed at 25° C. under nitrogen then heated in a microwave reactor for 30 minutes at 100° C. Water (5 mL) was added followed by removal of the EtOH in vacuo. The aqueous layer was washed with diethyl ether (2×) and the pH was adjusted to 3 with 1N HCl. The aqueous layer was extracted with ethyl acetate (2×) and the combined were dried over sodium sulfate and then concentrated in vacuo to give 2′-ureidobiphenyl-3-carboxylic acid (150 mg, 0.58 mmol, 97% yield) as a tan glass. MS found: (M+H)+=257.29

reactant | 3-Carboxyphenyl boronic acid | 0.60 mmol, 100 mg | C(=O)(O)C=1C=C(C=CC1)B(O)O | C7H7BO4
reactant | 2-bromophenyl urea | 0.60 mmol, 130 mg | BrC1=C(C=CC=C1)NC(=O)N | C7H7BrN2O
reactant | sodium carbonate | 1.81 mmol, 192 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.030 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | Water | 5 mL | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | water | 3 mL | O | H2O
product | 2′-ureidobiphenyl-3-carboxylic acid | 0.58 mmol, 150 mg, 97% yield | N(C(=O)N)C1=C(C=CC=C1)C1=CC(=CC=C1)C(=O)O | C14H12N2O3
